US07947691B2
1-Benzyl-3-hydroxy-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione
Following general procedure B2 and D1, 3-(2,4-Dimethoxy-benzyloxy)-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione was alkylated with benzyl bromide and subsequently deprotected to provide the title compound as a white solid. 1H NMR (d6-DMSO, 300 MHz) δ 5.75 (s, 2H); 7.20-7.45 (m, 6H); 7.56 (ddd, J1=8 Hz, J2=1 Hz, 1H); 7.93 (d, J=9 Hz, 1H); 8.15 (d, J=8 Hz, 1H); 11.06 (br s, 1H); retention time=2.57 min., m/z=325.0.

reactant | 3-(2,4-Dimethoxy-benzyloxy)-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione | COC1=C(CON2C(NC3=C(C2=O)SC2=C3C=CC=C2)=O)C=CC(=C1)OC | C19H16N2O5S
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 1-Benzyl-3-hydroxy-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione | C(C1=CC=CC=C1)N1C(N(C(C2=C1C1=C(S2)C=CC=C1)=O)O)=O | C17H12N2O3S
